US05077291
7.7 g (45 mmol) of benzyl bromide are added dropwise at room temperature to a solution of 10 g (46.9 mmol) of 1-tert.-butyl-3-ethyl-1,3,5-triazine-2,4,6-trione and 9.9 g (93 mmol) of sodium carbonate. The reaction mixture is refluxed for 6 hours. After it has cooled, the solid constituents are separated off, and the reaction solution is concentrated. The residue is taken up in methylene chloride and washed twice with water. After the organic phase has been dried over sodium sulphate, it is concentrated and distilled in vacuo. 8.5 g (60% of theory) of 5-benzyl-1-tert.-butyl-3-ethyl-1,3,5-triazine-2,4,6-trione are obtained as a highly viscous oil having a boiling point of 170° C./0.03 mbar.

reactant | benzyl bromide | 45 mmol, 7.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-tert.-butyl-3-ethyl-1,3,5-triazine-2,4,6-trione | 46.9 mmol, 10 g | C(C)(C)(C)N1C(N(C(NC1=O)=O)CC)=O | C9H15N3O3
reactant | sodium carbonate | 93 mmol, 9.9 g | C([O-])([O-])=O.[Na+].[Na+]
product | 5-benzyl-1-tert.-butyl-3-ethyl-1,3,5-triazine-2,4,6-trione | 8.5 g, 60% | C(C1=CC=CC=C1)N1C(N(C(N(C1=O)C(C)(C)C)=O)CC)=O | C16H21N3O3
